US04118559
Ethyl 3-(3-Benzyloxyphenyl)crotonate (Wittig Reaction)
In like manner, ethyl 3-(3-methoxyphenyl)crotonate is prepared from 3-methoxyacetophenone (43.1 g.) and carbethoxymethylene triphenylphosphorane (200 g.).

reactant | ethyl 3-(3-methoxyphenyl)crotonate | COC=1C=C(C=CC1)\C(=C/C(=O)OCC)\C | C13H16O3
reactant | 3-methoxyacetophenone | 43.1 g | CC(=O)C1=CC(=CC=C1)OC | C9H10O2
reactant | carbethoxymethylene triphenylphosphorane | 200 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
product | Ethyl 3-(3-Benzyloxyphenyl)crotonate | C(C1=CC=CC=C1)OC=1C=C(C=CC1)\C(=C/C(=O)OCC)\C | C19H20O3
